US09422236B2
Step-7 Preparation of (1R,2S)-2-amino-3-fluoro-1-(4-(S-methylsulfonimidoyl)phenyl) propan-1-ol
To a solution of 2, 2-Dichloro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)-ethyl]-acetamide (212 mg, 0.468 mmol) in Methanol (20 mL) is added K2CO3 (322.9 mg, 2.34 mmol) the resulting reaction mixture is stirred at room temperature for 16 h. Solvent is evaporated in vacuo to get crude which is purified by combi-flash chromatography using 15% MeOH in DCM as an eluent and washed with n-pentane and diethyl ether to afford title compound (80 mg). 1H-NMR (400 MHz, DMSO) δ: 1.60 (bs, 2H), 3.04 (s, 3H), 4.13-4.15 (m, 1.5H), 4.21-4.42 (m, 0.5H), 4.42-4.31 (m, 0.5H), 4.39-4.43 (m, 0.5H), 4.66 (bs, 1H), 7.55 (d, J=8.28 Hz, 2H), 7.87 (d, J=8.32 Hz, 2H). LC-MS (m/z): M+H=247.2.

reactant | 2, 2-Dichloro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)-ethyl]-acetamide | 0.468 mmol, 212 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C)O)CF)Cl | C14H14Cl2F4N2O4S
reactant | K2CO3 | 2.34 mmol, 322.9 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Methanol | 20 mL | CO | CH4O
product | (1R,2S)-2-amino-3-fluoro-1-(4-(S-methylsulfonimidoyl)phenyl) propan-1-ol | 80 mg | N[C@@H]([C@H](O)C1=CC=C(C=C1)S(=O)(=N)C)CF | C10H15FN2O2S
